US06677352B1
A solution of 2-anilino-7-chloro-5-methyl-1-phenyl-1,8-naphthyridin-4(1H)-one (95.0 mg, 0.263 mmol), TEA (0.65 mmol), and 10% Pd/C in EtOAc (2.5 mL) and EtOH (2.5 mL) was stirred under H2 (1 atm) for 3.5 h. The reaction mixture was filtered through a pad of Celite using EtOH and EtOAc to rinse. The combined filtrates were concentrated in vacuo, and purified with Biotage silica gel chromatography using 1:1 EtOAc:Hex to afford 2-anilino-5-methyl-1-phenyl-1,8-naphthyridin-4(1H)-one (84 mg, 98%) as a pale yellow solid. LCMS RT: 2.26 min, MH+: 328.4, Rf=0.1 (1:1 EtOAc:Hex),

reactant | 2-anilino-7-chloro-5-methyl-1-phenyl-1,8-naphthyridin-4(1H)-one | 0.263 mmol, 95.0 mg | N(C1=CC=CC=C1)C=1N(C2=NC(=CC(=C2C(C1)=O)C)Cl)C1=CC=CC=C1 | C21H16ClN3O
solvent | EtOAc | 2.5 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 2.5 mL | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 2-anilino-5-methyl-1-phenyl-1,8-naphthyridin-4(1H)-one | 84 mg, 98% | N(C1=CC=CC=C1)C=1N(C2=NC=CC(=C2C(C1)=O)C)C1=CC=CC=C1 | C21H17N3O
